.subckt oai222_x1 A1 A2 B1 B2 C1 C2 X VDD VSS
XOAI222A0_PA0 pmid_OAI222A0_0 A1 VDD VDD pmos w=2u l=100n
XOAI222A0_PB0 oai222_a_n A2 pmid_OAI222A0_0 VDD pmos w=2u l=100n
XOAI222A0_NA0 oai222_a_n A1 VSS VSS nmos w=1u l=100n
XOAI222A0_NB0 oai222_a_n A2 VSS VSS nmos w=1u l=100n
XOAI222AI0_P0 oai222_a oai222_a_n VDD VDD pmos w=2u l=100n
XOAI222AI0_N0 oai222_a oai222_a_n VSS VSS nmos w=1u l=100n
XOAI222B0_PA0 pmid_OAI222B0_0 B1 VDD VDD pmos w=2u l=100n
XOAI222B0_PB0 oai222_b_n B2 pmid_OAI222B0_0 VDD pmos w=2u l=100n
XOAI222B0_NA0 oai222_b_n B1 VSS VSS nmos w=1u l=100n
XOAI222B0_NB0 oai222_b_n B2 VSS VSS nmos w=1u l=100n
XOAI222BI0_P0 oai222_b oai222_b_n VDD VDD pmos w=2u l=100n
XOAI222BI0_N0 oai222_b oai222_b_n VSS VSS nmos w=1u l=100n
XOAI222C0_PA0 pmid_OAI222C0_0 C1 VDD VDD pmos w=2u l=100n
XOAI222C0_PB0 oai222_c_n C2 pmid_OAI222C0_0 VDD pmos w=2u l=100n
XOAI222C0_NA0 oai222_c_n C1 VSS VSS nmos w=1u l=100n
XOAI222C0_NB0 oai222_c_n C2 VSS VSS nmos w=1u l=100n
XOAI222CI0_P0 oai222_c oai222_c_n VDD VDD pmos w=2u l=100n
XOAI222CI0_N0 oai222_c oai222_c_n VSS VSS nmos w=1u l=100n
XOAI222N30_PA0 X oai222_a VDD VDD pmos w=2u l=100n
XOAI222N30_PB0 X oai222_b VDD VDD pmos w=2u l=100n
XOAI222N30_PC0 X oai222_c VDD VDD pmos w=2u l=100n
XOAI222N30_NC0 X oai222_c nmid2 VSS nmos w=1u l=100n
XOAI222N30_NB0 nmid2 oai222_b nmid1 VSS nmos w=1u l=100n
XOAI222N30_NA0 nmid1 oai222_a VSS VSS nmos w=1u l=100n
.ends oai222_x1
